US09126998B2
3,3,3-Trifluoro-2-[(2-hydroxy-1-phenylethyl)amino]-2-methylpropionitrile (diastereomers)
Under argon, 52.8 g (228.3 mmol) of 2-methyl-4-phenyl-2-(trifluoromethyl)-1,3-oxazolidine (diastereomers) Example 241A were initially charged in dichloromethane (2 l) and cooled to 0° C. 42.85 ml (342.5 mmol) of trimethylsilyl cyanide and 42.1 ml (342.5 mmol) of boron trifluoride/diethyl ether complex were added slowly and the mixture was stirred at RT for 16 h. The reaction solution was then poured into 1.5 l of saturated sodium bicarbonate solution. Another 400 g of sodium bicarbonate were then added, and the solution was adjusted to pH 10 with conc. aqueous sodium hydroxide solution. The aqueous solution was extracted three times with 500 ml of dichloromethane and the combined organic phases were dried over sodium sulphate, filtered off and concentrated. This gave 56.8 g (96% of theory, 2 diastereomers) of the target compound.

reactant | 2-methyl-4-phenyl-2-(trifluoromethyl)-1,3-oxazolidine | 228.3 mmol, 52.8 g | CC1(OCC(N1)C1=CC=CC=C1)C(F)(F)F | C11H12F3NO
reactant | trimethylsilyl cyanide | 342.5 mmol, 42.85 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | sodium bicarbonate | 1.5 l | C([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 400 g | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 2 l | ClCCl | CH2Cl2
product | 3,3,3-Trifluoro-2-[(2-hydroxy-1-phenylethyl)amino]-2-methylpropionitrile | FC(C(C#N)(C)NC(CO)C1=CC=CC=C1)(F)F | C12H13F3N2O
